US04775223
((+)-2-dodecyloxypropanol)
1.9 g of LiAlH4 was added to 70 ml of ether and the mixture was stirred for 4 hours. To the mixture was added dropwise 16.9 g of (-)-ethyl-2-dodecyloxypropionate in the same manner as in Example 3, and the mixture was stirred for 15 minutes. Then, 50 ml of deionized water andfurther 50 ml of 10% H2SO4 aqueous solution were added thereto. The ether layer was separated, dried with MgSO4 and filtrated. Ether was distilled off to obtain the objective product at an yield of 12.0 g. The product showed the following properties:

reactant | LiAlH4 | 1.9 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ether | 70 ml | CCOCC | C4H10O
reactant | (-)-ethyl-2-dodecyloxypropionate | 16.9 g | C(C)OC(C(C)OCCCCCCCCCCCC)=O | C17H34O3
reactant | H2SO4 | 50 ml | OS(=O)(=O)O | H2O4S
solvent | water | 50 ml | O | H2O
product | (+)-2-dodecyloxypropanol | C(CCCCCCCCCCC)OC(CO)C | C15H32O2
